US04536209
Production of N-[[4-chloro-3-[1-(phenylcarbamoyl)propoxy]phenyl]]-3,4,5,6-tetrahydrophthalimide
A mixture of 1.52 g. of cyclohexane-1,2-dicarboxylic anhydride, 3.05 g. of N-phenyl-α-(5-amino-2-chlorophenoxy)butyramide (melting point of 78° to 80° C.) and 10 ml. of acetic acid was refluxed with stirring for 2 hours and the reaction mixture was cooled to room temperature and water was added to obtain a crude crystal. The product was recrystallized from a mixture of ethyl acetate and n-hexane to obtain 3.86 g. of Compound No. 294 shown in Table 1.

reactant | cyclohexane-1,2-dicarboxylic anhydride | C12C(CCCC1)C(=O)OC2=O | C8H10O3
reactant | N-phenyl-α-(5-amino-2-chlorophenoxy)butyramide | C1(=CC=CC=C1)NC(C(CC)OC1=C(C=CC(=C1)N)Cl)=O | C16H17ClN2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-[[4-chloro-3-[1-(phenylcarbamoyl)propoxy]phenyl]]-3,4,5,6-tetrahydrophthalimide | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(CC)C(NC2=CC=CC=C2)=O | C24H23ClN2O4
